US06747061B2
To a solution of tetrahydofurfurylamine (2 mL) in EtOH (20 mL) were added 5 N NaOH (3.9 mL) and carbon disulfide (1.17 mL), and the mixture was stirred for 1.5 h. Methyl 4-chlorobutyrate (2.4 mL) was then added, and the mixture was stirred overnight. Upon quenching with saturated NaCl solution the mixture was extracted with ether. Chromatography on silica gel gave the desired 4-(tetrahydrofuran-2-ylmethylthiocarbamoylsulfanyl)-butyric acid methyl ester product (1.1 g).

reactant | tetrahydofurfurylamine | 2 mL | C(C1CCCO1)N | C5H11NO
reactant | NaOH | 5 N, 3.9 mL | [OH-].[Na+]
reactant | carbon disulfide | 1.17 mL | C(=S)=S | CS2
reactant | Methyl 4-chlorobutyrate | 2.4 mL | ClCCCC(=O)OC | C5H9ClO2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(tetrahydrofuran-2-ylmethylthiocarbamoylsulfanyl)-butyric acid methyl ester | 1.1 g | COC(CCCSC(NCC1OCCC1)=S)=O | C11H19NO3S2
